US06753322B2
Methyl 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate
A solution of methyl 9-{(2R,3R,4R,5R)-3,4-bis(acetyloxy)-5-[(acetyloxy)methyl]-tetrahydro-2-furanyl}6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate (Preparation 15) (2.0 g, 3.17 mmol), sodium carbonate (35 mg) and dry methanol (40 ml) was stirred at room temperature for 3.5 hours. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel using a gradient elution with dichloromethane:methanol (94:6, by volume) then dichloromethane:methanol (92:8, by volume) to afford the title compound as a white powder (1.5 g).

reactant | methyl 9-{(2R,3R,4R,5R)-3,4-bis(acetyloxy)-5-[(acetyloxy)methyl]-tetrahydro-2-furanyl}6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 3.17 mmol, 2.0 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C32H33N5O9
reactant | sodium carbonate | 35 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | Methyl 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 1.5 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C26H27N5O6
